US04481142
9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxide
A mixture of 0.4 g (1.1 mmol) of 8-chloro-1-(2-fluorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one 2-oxide, 1.0 g (9.6 mmol) of formamidine acetate and 20 ml of formamide was heated on a steam bath for 6 hr. The mixture was poured over ice and extracted with methylene chloride. The methylene chloride solution was washed with water, dried over anhydrous sodium sulfate and concentrated at reduced pressure. The residue crystallized with the addition of a mixture of ether and methylene chloride to give off-white crystals, mp 186°-188° C.

reactant | 8-chloro-1-(2-fluorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one 2-oxide | 1.1 mmol, 0.4 g | ClC1=CC2=C(C(C(C[N+](=C2C2=C(C=CC=C2)F)[O-])=CN(C)C)=O)C=C1 | C19H16ClFN2O2
reactant | formamidine acetate | 9.6 mmol, 1.0 g | C(C)(=O)O.C(=N)N
solvent | formamide | 20 ml | C(=O)N | CH3NO
product | 9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxide | ClC1=CC2=C(C3=C(C[N+](=C2C2=C(C=CC=C2)F)[O-])C=NC=N3)C=C1 | C18H11ClFN3O
